US05998433
a) Synthesis of (Z)-6-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 1.173 g (7.349 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 1.90 g (7.35 mmol) of (Z)-4-chloro-4'-stilbenecarboxylic acid and 4.10 ml (29.4 mmol) of triethylamine in 30 ml of N,N-dimethylformamide, 1.34 ml (8.82 mmol) of diethyl cyanophosphonate was added dropwise, followed by overnight stirring at room temperature. This mixture was poured into water and extracted with diethyl ether 3 times. The combined organic layer was dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 7.349 mmol, 1.173 g | Cl.O1C=CC2=C1CNCC2
reactant | (Z)-4-chloro-4'-stilbenecarboxylic acid | 7.35 mmol, 1.90 g | ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)O | C15H11ClO2
reactant | triethylamine | 29.4 mmol, 4.10 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 8.82 mmol, 1.34 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (Z)-6-(4-chlorostilbene-4'-carbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | ClC1=CC=C(C=C1)\C=C/C1=CC=C(C=C1)C(=O)N1CC2=C(CC1)C=CO2 | C22H18ClNO2
